US06617339B1
5(R)-1,2,5-Thiadiazol-3-yloxymethyl-3-(4-iodophenyl)oxazolidin-2-one
Iodine (0.67 g, 2.64 mmol) was added portionwise to a stirred solution of 5(R)-1,2,5-thiadiazol-3-yloxymethyl-3-phenyloxazolidin-2-one (0.7 g, 2.53 mmol) and silver trifluoroacetate (0.727 g, 3.29 mmol) in acetonitrile (4 ml) and chloroforrn (6 ml). The mixture was stirred for 24 hours in the dark. The mixture was filtered and the filtrate evaporated. The residue was extracted with EtOAc and the extract washed with water, dilute ammonia (0.1 ml of 0.88SG ammonia in 25 ml water), water and brine, dried (Na2SO4) and evaporated to give the title product as a solid (0.749 g, 73%)

reactant | Iodine | 2.64 mmol, 0.67 g | II | I2
reactant | 5(R)-1,2,5-thiadiazol-3-yloxymethyl-3-phenyloxazolidin-2-one | 2.53 mmol, 0.7 g | S1N=C(C=N1)OC[C@H]1CN(C(O1)=O)C1=CC=CC=C1 | C12H11N3O3S
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
solvent | chloroforrn | 6 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | silver trifluoroacetate | 3.29 mmol, 0.727 g | FC(C(=O)[O-])(F)F.[Ag+]
product | 5(R)-1,2,5-Thiadiazol-3-yloxymethyl-3-(4-iodophenyl)oxazolidin-2-one | 0.749 g, 73% | S1N=C(C=N1)OC[C@H]1CN(C(O1)=O)C1=CC=C(C=C1)I | C12H10IN3O3S
